US09260397B2
1-(4-chlorophenyl)-3-heptyl imidazolium bromide
According to the general synthesis procedure, 5.6 mmol (1.00 g) 1-(4-chlorophenyl)imidazole and 6.7 mmol (1.20 g, 1.1 ml) 1-bromoheptane are dissolved in 5 ml TIE and heated for 12 h to 80° C.

reactant | 1-(4-chlorophenyl)imidazole | 5.6 mmol, 1.00 g | ClC1=CC=C(C=C1)N1C=NC=C1 | C9H7ClN2
reactant | 1-bromoheptane | 6.7 mmol, 1.1 ml, 1.20 g | BrCCCCCCC | C7H15Br
product | 1-(4-chlorophenyl)-3-heptyl imidazolium bromide | [Br-].ClC1=CC=C(C=C1)[N+]1=CN(C=C1)CCCCCCC | InChI=1S/C16H22ClN2.BrH/c1-2-3-4-5-6-11-18-12-13-19(14-18)16-9-7-15(17)8-10-16;/h7-10,12-14H,2-6,11H2,1H3;1H/q+1;/p-1
